### PR TITLE
[Merged by Bors] - chore(Topology/SubsetProperties): rename isCompact_of_isClosed_subset

### PR DESCRIPTION
**Pull request by grunweg**
As discussed [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/naming.20in.20docs.23SubsetProperties/near/392310506).

### CODE REVIEW

File: Mathlib/Analysis/Convex/Exposed.lean [hunk 1]
```diff
@@ -187,7 +187,7 @@ protected theorem isClosed [OrderClosedTopology 𝕜] {A B : Set E} (hAB : IsExp
 
 protected theorem isCompact [OrderClosedTopology 𝕜] [T2Space E] {A B : Set E}
     (hAB : IsExposed 𝕜 A B) (hA : IsCompact A) : IsCompact B :=
-  isCompact_of_isClosed_subset hA (hAB.isClosed hA.isClosed) hAB.subset
+  IsCompact.of_isClosed_subset hA (hAB.isClosed hA.isClosed) hAB.subset
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convex/Exposed.lean:190]:
```suggestion
  hA.of_isClosed_subset (hAB.isClosed hA.isClosed) hAB.subset
```

**Review by YaelDillies — COMMENTED** [review]
Could you take on the opportunity to use that new dot notation?

**Comment by grunweg** [comment]
#7291 has landed - I've rebased, will wait for new cache to be built and then test these changes.

File: Mathlib/Analysis/Calculus/ContDiffDef.lean [hunk 2]
```diff
@@ -1580,7 +1580,7 @@ theorem support_iteratedFDeriv_subset (n : ℕ) : support (iteratedFDeriv 𝕜 n
 
 theorem HasCompactSupport.iteratedFDeriv (hf : HasCompactSupport f) (n : ℕ) :
     HasCompactSupport (iteratedFDeriv 𝕜 n f) :=
-  isCompact_of_isClosed_subset hf isClosed_closure (tsupport_iteratedFDeriv_subset n)
+  IsCompact.of_isClosed_subset hf isClosed_closure (tsupport_iteratedFDeriv_subset n)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Calculus/ContDiffDef.lean:1583]: That should still work
```suggestion
  hf.of_isClosed_subset isClosed_closure (tsupport_iteratedFDeriv_subset n)
```

File: Mathlib/Analysis/Convolution.lean [hunk 3]
```diff
@@ -584,7 +584,7 @@ variable [TopologicalAddGroup G]
 
 protected theorem HasCompactSupport.convolution [T2Space G] (hcf : HasCompactSupport f)
     (hcg : HasCompactSupport g) : HasCompactSupport (f ⋆[L, μ] g) :=
-  isCompact_of_isClosed_subset (hcg.isCompact.add hcf) isClosed_closure <|
+  IsCompact.of_isClosed_subset (hcg.isCompact.add hcf) isClosed_closure <|
```
Comment (YaelDillies) [inline Mathlib/Analysis/Convolution.lean:587]:
```suggestion
  (hcg.isCompact.add hcf).of_isClosed_subset isClosed_closure <|
```

File: Mathlib/Analysis/NormedSpace/Algebra.lean [hunk 4]
```diff
@@ -48,7 +48,7 @@ instance [ProperSpace 𝕜] : CompactSpace (characterSpace 𝕜 A) := by
     intro φ hφ
     rw [Set.mem_preimage, mem_closedBall_zero_iff]
     exact (norm_le_norm_one ⟨φ, ⟨hφ.1, hφ.2⟩⟩ : _)
-  exact isCompact_of_isClosed_subset (isCompact_closedBall 𝕜 0 _) CharacterSpace.isClosed h
+  exact IsCompact.of_isClosed_subset (isCompact_closedBall 𝕜 0 _) CharacterSpace.isClosed h
```
Comment (YaelDillies) [inline Mathlib/Analysis/NormedSpace/Algebra.lean:51]:
```suggestion
  exact (isCompact_closedBall 𝕜 0 _).of_isClosed_subset CharacterSpace.isClosed h
```

File: Mathlib/Analysis/NormedSpace/FiniteDimension.lean [hunk 5]
```diff
@@ -488,7 +488,7 @@ theorem HasCompactMulSupport.eq_one_or_finiteDimensional {X : Type*} [Topologica
   obtain ⟨r : ℝ, rpos : 0 < r, hr : Metric.closedBall x r ⊆ Function.mulSupport f⟩ :=
     Metric.nhds_basis_closedBall.mem_iff.1 this
   have : IsCompact (Metric.closedBall x r) :=
-    isCompact_of_isClosed_subset hf Metric.isClosed_ball (hr.trans (subset_mulTSupport _))
+    IsCompact.of_isClosed_subset hf Metric.isClosed_ball (hr.trans (subset_mulTSupport _))
```
Comment (YaelDillies) [inline Mathlib/Analysis/NormedSpace/FiniteDimension.lean:491]:
```suggestion
    hf.of_isClosed_subset Metric.isClosed_ball (hr.trans (subset_mulTSupport _))
```

File: Mathlib/Dynamics/OmegaLimit.lean [hunk 6]
```diff
@@ -237,7 +237,7 @@ theorem eventually_closure_subset_of_isCompact_absorbing_of_isOpen_of_omegaLimit
   rcases hc₂ with ⟨v, hv₁, hv₂⟩
   let k := closure (image2 ϕ v s)
   have hk : IsCompact (k \ n) :=
-    IsCompact.diff (isCompact_of_isClosed_subset hc₁ isClosed_closure hv₂) hn₁
+    IsCompact.diff (hc₁.of_isClosed_subset isClosed_closure hv₂) hn₁
```
Comment (YaelDillies) [inline Mathlib/Dynamics/OmegaLimit.lean:240]:
```suggestion
    (hc₁.of_isClosed_subset isClosed_closure hv₂).diff hn₁
```

File: Mathlib/Geometry/Manifold/BumpFunction.lean [hunk 7]
```diff
@@ -277,7 +277,7 @@ theorem tsupport_subset_chartAt_source : tsupport f ⊆ (chartAt H c).source :=
 #align smooth_bump_function.tsupport_subset_chart_at_source SmoothBumpFunction.tsupport_subset_chartAt_source
 
 protected theorem hasCompactSupport : HasCompactSupport f :=
-  isCompact_of_isClosed_subset f.isCompact_symm_image_closedBall isClosed_closure
+  IsCompact.of_isClosed_subset f.isCompact_symm_image_closedBall isClosed_closure
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/BumpFunction.lean:280]:
```suggestion
  f.isCompact_symm_image_closedBall.of_isClosed_subset isClosed_closure
```

**Review by YaelDillies — COMMENTED** [review]
... and more

**Comment by grunweg** [comment]
Thanks for the quick comments - indeed, there was more :-) (I wasn't sure if all of them were "good style" or rather harmful to read. Plus, testing these changes locally is a bit of a pain, as it requires re-building.)

File: Mathlib/Topology/SubsetProperties.lean [hunk 8]
```diff
@@ -128,10 +128,10 @@ theorem IsCompact.diff (hs : IsCompact s) (ht : IsOpen t) : IsCompact (s \ t) :=
 #align is_compact.diff IsCompact.diff
 
 /-- A closed subset of a compact set is a compact set. -/
-theorem isCompact_of_isClosed_subset (hs : IsCompact s) (ht : IsClosed t) (h : t ⊆ s) :
+theorem IsCompact.of_isClosed_subset (hs : IsCompact s) (ht : IsClosed t) (h : t ⊆ s) :
```
Comment (jcommelin) [inline Mathlib/Topology/SubsetProperties.lean:131]: You've pointed out that you're not sure that the new dot-notation improved readability. I think that one reason for this is that this lemma proves a property of `t`, but the dot-notation takes as argument a property of `s`.
If this is renamed to `IsClosed.isCompact_of_subset`, then you would instead get dot-notation of the form `ht.isCompact_of_subset hs h`. I conjecture that this will improve readability.

Comment (YaelDillies) [reply Mathlib/Topology/SubsetProperties.lean:131]: FWIW I think both names are reasonable. I don't have a strong preference either way.

Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean:131]: To be honest, I'm not sure if the other is better. I'll leave it as-is, unless you feel strongly.

(To be clear: I think the new dot notation is better in many cases; I just was unsure about some instances. If the receiver is short, dot notation is a clear win to me, resembling method chaining in programming languages. For a long term in parentheses, I'm less sure. At some point, *I* find dot notation less readable.)

**Comment by jcommelin** [comment]
Ok, LGTM

bors merge
